US09216980B2
Step 5: 9-Benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
Lithium bis(trimethylsilyl)amide (2.34 mL of a 1N solution in THF, 2.34 mmol) was added dropwise to a cooled (−78° C.) suspension of 1-benzenesulfonyl-5-bromo-2-{[cyanomethyl-(toluene-4-sulfonyl)amino]methyl}-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid methyl ester (0.48 g, 0.78 mmol) in dry THF (12 mL). The reaction mixture was allowed to slowly warm to −10° C. and then quenched with saturated aqueous ammonium chloride solution (8 mL). The reaction mixture was diluted with water and washed with DCM (2×10 mL). The combined organic phase was dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash chromatography (silica, 5 g cartridge, Si-SPE, 10-100% THF in DCM) to afford the title compound as a brown solid (0.20 g, 60%). LCMS (Method B): RT=3.83 min, M+H+=429/431.

reactant | Lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-benzenesulfonyl-5-bromo-2-{[cyanomethyl-(toluene-4-sulfonyl)amino]methyl}-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid methyl ester | 0.78 mmol, 0.48 g | COC(=O)C1=C(N(C2=NC=C(C=C21)Br)S(=O)(=O)C2=CC=CC=C2)CN(S(=O)(=O)C2=CC=C(C=C2)C)CC#N | C25H21BrN4O6S2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 9-Benzenesulfonyl-3-bromo-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.20 g, 60% | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3O)C#N)C=C(C=N2)Br | C17H9BrN4O3S
